US05008392
26.9 g (0.1 mol) of dipropyl dichloromaleate, 19.27 g (0.25 mol) of ammonium acetate and 40 ml of dimethylformamide were reacted under the same conditions as described in Example 1. 24.1 g (87.4% yield) of dipropyl aminochloromaleate were obtained as a reddish, viscous liquid (purity according to GC analysis 90.5%)

reactant | dipropyl dichloromaleate | 0.1 mol, 26.9 g | Cl/C(=C(/C(=O)OCCC)\Cl)/C(=O)OCCC | C10H14Cl2O4
reactant | ammonium acetate | 0.25 mol, 19.27 g | C(C)(=O)[O-].[NH4+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | dipropyl aminochloromaleate | 24.1 g, 87.4% yield | N/C(=C(/C(=O)OCCC)\Cl)/C(=O)OCCC | C10H16ClNO4
